US07507740B2
(iii) Production of (2E)-3-(4-phenoxy-5H-pyrrolo[3,2-d]pyrimidin-6-yl)-2-propenyl benzoate
(2E)-3-(4-Phenoxy-5H-pyrrolo[3,2-d]pyrimidin-6-yl)-2-propen-1-ol (1.0 g) was suspended in tetrahydrofuran (20 mL), and triethylamine (0.651 mL) and benzoyl chloride (0.86 mL) were sequentially added under ice-cooling. The mixture was stirred under ice-cooling for 2 hrs, diluted with ethyl acetate (200 mL) and washed with water (50 mL). The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was separated and purified by basic silica gel column chromatography (eluent, hexane:ethyl acetate=80:20→0:100) to give the title compound (1.08 g) as crystals.

reactant | (2E)-3-(4-Phenoxy-5H-pyrrolo[3,2-d]pyrimidin-6-yl)-2-propen-1-ol | 1.0 g | O(C1=CC=CC=C1)C=1C2=C(N=CN1)C=C(N2)/C=C/CO | C15H13N3O2
reactant | triethylamine | 0.651 mL | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.86 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | (2E)-3-(4-phenoxy-5H-pyrrolo[3,2-d]pyrimidin-6-yl)-2-propenyl benzoate | 1.08 g | C(C1=CC=CC=C1)(=O)OC\C=C\C1=CC=2N=CN=C(C2N1)OC1=CC=CC=C1 | C22H17N3O3
